US07176210B2
Preparation of Intermediate 7-Chloro-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine (I-1A-3g)
To a slurry of 2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol (I-1A-3f; 700 mg, 2.70 mmol) and triethylamine (0.57 ml, 4.0 mmol) in toluene (30 ml) at room temperature was added POCl3 (1.3 ml, 14 mmol), dropwise. The mixture was heated at 95° C. for 21 hours, cooled to room temperature, then slowly added to a stirred mixture of ice, saturated aqueous sodium bicarbonate and ethyl acetate. The aqueous layer was separated and extracted with additional ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), and then concentrated, in vacuo, to afford the crude product (0.79 g). Purification on a Biotage™ Flash 40S column using 0–20% ethyl acetate in hexanes as eluant afforded I-1A-3g as an off-white solid (643 mg, 86%): +ESI MS (M+1) 278.12; 1H NMR (400 MHz, CD2Cl2) δ 7.96–7.93 (m, 1H), 7.54–7.51 (m, 1H), 7.50–7.35 (m, 2H), 7.15 (s, 1H), 6.90 (s, 1H), 2.59 (s, 3H).

reactant | 2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol | 2.70 mmol, 700 mg | ClC1=C(C=CC=C1)C1=NN2C(N=C(C=C2O)C)=C1 | C13H10ClN3O
reactant | triethylamine | 4.0 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | POCl3 | 14 mmol, 1.3 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine | 643 mg, 86% | ClC1=CC(=NC=2N1N=C(C2)C2=C(C=CC=C2)Cl)C | C13H9Cl2N3
